US07012089B2
[2-(4-Chloro-2-nitro-phenyl)-ethyl]-methyl-amine
To a solution of methyl amine in THF (2 M, 200 mL) was added 1-(2-bromo-ethyl)-4-chloro-2-nitro-benzene (17.5 g, 0.066 mole) in a pressure bottle, the reaction mixture was stirred at 60° C. overnight and the solvent was removed. The solid residue was treated with sodium hydroxide (1 N, 100 mL) and the aqueous extracted with methylene chloride (2×100 mL). The combined organic layers were washed with water (100 mL), saturated sodium chloride (100 mL), dried (sodium sulfate) and concentrated to provide 14.9 g of the title compound as a brown oil. 1H NMR (DMSO-d6): 7.95 δ (d, 1H); 7.67 δ (dd, 1H); 7.50 δ (t, 1H); 3.28 δ (broad, 1H); 2.85 δ (t, 2H); 2.64 δ (t, 2H); 2.20 δ (s, 3H).

reactant | methyl amine | CN | CH5N
reactant | 1-(2-bromo-ethyl)-4-chloro-2-nitro-benzene | 0.066 mole, 17.5 g | BrCCC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C8H7BrClNO2
solvent | THF | 2 M, 200 mL | C1CCOC1 | C4H8O
product | [2-(4-Chloro-2-nitro-phenyl)-ethyl]-methyl-amine | 14.9 g | ClC1=CC(=C(C=C1)CCNC)[N+](=O)[O-] | C9H11ClN2O2
